US07244745B2
To a solution of diisopropylamine (4.4 mL, 31.4 mmol) in tetrahydrofuran (20 mL) at −78° C. was added a 2.5 M solution of n-butyllithium in hexanes (12 mL, 30 mmol). The solution was allowed to warm to rt over 30 min and was re-cooled to −78° C. A solution of 1-diethylaminomethyl-piperidin-2-one (3.87 g, 21.0 mmol) in tetrahydrofuran (10 mL) was added to the lithium diisopropylamide via syringe. The reaction mixture was maintained at −78° C. for 1 h and was treated with a solution of 5-methylnicotinic acid methyl ester (2.12 g, 14.0 mmol) in tetrahydrofuran (20 mL) via syringe. The reaction mixture was allowed to warm to rt and was maintained overnight. The reaction mixture was quenched with water (30 mL) and was extracted with ether (2×). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography [1/0 to 1/1 ethyl acetate/(70/30/1 ethyl acetate/methanol/ammonium hydroxide)] to provide 560 mg (13%) of 1-diethylaminomethyl-3-[hydroxy-(5-methylpyridin-3-yl)methylene]piperidin-2-one. To a solution of the piperidin-2-one (550 mg, 1.8 mmol) in acetone (10 mL) was added conc. hydrochloric acid (2 L) and the reaction mixture was heated at 100° C. overnight. The reaction mixture was allowed to cool to rt, diluted with isopropyl alcohol, and allowed to stand at 0° C. The product was isolated by filtration, thus providing 400 mg (85%) of 5′-methyl-3,4,5,6-tetrahydro[2,3′]bipyridinyl dihydrochloride.

reactant | diisopropylamine | 31.4 mmol, 4.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-diethylaminomethyl-piperidin-2-one | 21.0 mmol, 3.87 g | C(C)N(CC)CN1C(CCCC1)=O | C10H20N2O
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 5-methylnicotinic acid methyl ester | 14.0 mmol, 2.12 g | COC(C1=CN=CC(=C1)C)=O | C8H9NO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-diethylaminomethyl-3-[hydroxy-(5-methylpyridin-3-yl)methylene]piperidin-2-one | 560 mg, 13% | C(C)N(CC)CN1C(C(CCC1)=C(C=1C=NC=C(C1)C)O)=O | C17H25N3O2
